### PR TITLE
Eckmann-Hilton Argument + some lower parts of the algebraic hierarchy

### PR DESCRIPTION
**Pull request by uniwuni**
# Description

This adds a proof of the Eckmann-Hilton argument for unital magmas, as well as the definition of magmas and unital magmas and a refactoring of the definition of semigroup in terms of magmas. Note that monoids are intentionally not defined as unital magmas that are also semigroups in order to avoid diamond issues, especially because general unital magmas are only used rarely. I'm not sure that this is how the structure hierarchy is supposed to look like, so I'd appreciate any feedback.

## Checklist

Before submitting a merge request, please check the items below:

- [x] The imports are sorted (use `find -type f -name \*.agda -or -name \*.lagda.md | xargs support/sort-imports.hs`)

- [x] All code blocks have "agda" as their language. This is so that
tools like Tokei can report accurate line counts for proofs vs. text.

- [x] Proofs are explained to a satisfactory degree; This is subjective,
of course, but proofs should be comprehensible to a hypothetical human
whose knowledge is limited to a working understanding of non-cubical
Agda, and the stuff your pages link to.

The following items are encouraged, but optional:

- [ ] If you feel comfortable, add yourself to the Authors page! Add a
profile picture that's recognisably "you" under support/pfps; The
picture should be recognisable at 128x128px, should look good in a
squircle, and shouldn't be more than 200KiB.

- [ ] If your contribution makes mention of a negative statement, but
does not prove the negative (perhaps because it would distract from the
main point), consider adding it to the counterexamples folder.

- [ ] If a proof can be done in both "cubical style", and "book HoTT
style", and you have the energy to do both, consider doing both!
However, it is **completely file** to only do one! For instance, I
(Amélia) am much better at writing proofs "book-style".

### CODE REVIEW

File: src/1Lab/Data/Bool.lagda.md [hunk 1]
```diff
@@ -197,6 +197,20 @@ and-distrib-xorʳ true y false = and-falseʳ (not y) ∙ sym (and-falseʳ y)
...
+
+```agda
+imp : Bool → Bool → Bool
+imp false y = true
+imp true y = y
+
+imp-trueʳ : (x : Bool) → imp x true ≡ true
+imp-trueʳ false = refl
+imp-trueʳ true = refl
+
```
Comment (plt-amy) [inline src/1Lab/Data/Bool.lagda.md:210]: Remove this extra line

File: src/Algebra/Magma.lagda.md [hunk 2]
```diff
@@ -0,0 +1,156 @@
...
+
+∞MagmaStr-univ : isUnivalent (∞MagmaStr {ℓ = ℓ})
+∞MagmaStr-univ = tm→Structure-univalent (s∙ s→ (s∙ s→ s∙))
+```
+
+Generalising magmas to ∞-magmas does not pose a problem because ∞-magmas
+do not have any _paths_. However, when considering structures with
+equalities, like semigroups, we must restrict ourselves to sets to get a
+coherent object, hence the field `hasIsSet`{.Agda}. In order to properly set up
+the algebraic hierarchy, we define general magmas anyways.
```
Comment (plt-amy) [inline src/Algebra/Magma.lagda.md:45]: "general" → "truncated" probably, but this paragraph doesn't read very well to me at all

File: src/Algebra/Magma.lagda.md [hunk 3]
```diff
@@ -0,0 +1,156 @@
...
+
+# Magmas
+```agda
+record isMagma {A : Type ℓ} (_⋆_ : A → A → A) : Type ℓ where
+```
+
+A **magma** is a `set`{.Agda ident=isSet} equipped with an arbitrary binary operation `⋆`,
```
Comment (plt-amy) [inline src/Algebra/Magma.lagda.md:52]: wrap this line at 72 ch

File: src/Algebra/Magma.lagda.md [hunk 4]
```diff
@@ -0,0 +1,156 @@
...
+```agda
+  field
+    hasIsSet : isSet A
+    
+open isMagma public
+```
+    
+Note that we do not generally benefit from the set truncation of arbitrary magmas - however,
+practically all structures built upon `isMagma`{.Agda} do, since they contain equality fields
+which would require complicated if not outright undefinable coherence conditions.
```
Comment (plt-amy) [inline src/Algebra/Magma.lagda.md:64]: wrap these lines at 72 ch

File: src/Algebra/Magma.lagda.md [hunk 5]
```diff
@@ -0,0 +1,156 @@
...
+    
+  open isMagma hasIsMagma public
+
+Magma : (ℓ : Level) → Type (lsuc ℓ)
+Magma ℓ = Σ MagmaOn
+```
+
+We then define what it means for an equivalence between the carrier types of two
+given magmas to be an **equivalence of magmas**. In particular,
+it has to preserve the magma operation.
```
Comment (plt-amy) [inline src/Algebra/Magma.lagda.md:92]: change:

> **equivalence of magmas**. In particular it [...]

to

> **equivalence of magmas**: it [...]

imo

File: src/Algebra/Magma.lagda.md [hunk 6]
```diff
@@ -0,0 +1,156 @@
...
+  field
+    pres-⋆ : (x y : A .fst) → e .fst (x A.⋆ y) ≡ e .fst x B.⋆ e .fst y
+
+open Magma≃
+```
+
+By using record machinery that transforms our given definition into an equivalent
+`description`{.Agda ident=StrDesc}, we can see that `MagmaOn`{.Agda} forms a univalent structure,
+which allows us to characterise the path type between two magmas as the type of their equivalences
+by making use of the general `structure identity principle`{.Agda ident=SIP}.
```
Comment (plt-amy) [inline src/Algebra/Magma.lagda.md:110]: `StrDesc` isn't involved at all, I'd simplify this to something like

> We can automatically derive a proof that `MagmaOn` forms a univalent structure, which allows us to [...]

File: src/Algebra/Magma.lagda.md [hunk 7]
```diff
@@ -0,0 +1,156 @@
...
+
+## The boolean implication magma
+
+```agda
+open import 1Lab.Data.Bool
+```
+
+To give a somewhat natural example for a magma that is neither associative, commutative, nor
+has a two-sided identity element, consider `boolean implication`{.Agda imp}. Since the booleans
+form a set, this obviously defines a magma:
```
Comment (plt-amy) [inline src/Algebra/Magma.lagda.md:132]: remove "obviously"

File: src/Algebra/Monoid.lagda.md [hunk 8]
```diff
@@ -119,3 +119,37 @@ isomorphism_.
...
 Monoid≡ = SIP Monoid-univalent
 ```
+
+# Relationships to Unital Magmas
+
+```agda
+open import Algebra.UnitalMagma
+```
+
+By definition, every monoid is exactly a `unital magma`{.Agda ident=isUnitalMagma}
```
Comment (plt-amy) [inline src/Algebra/Monoid.lagda.md:129]: remove "exactly"

File: src/Algebra/UnitalMagma.lagda.md [hunk 9]
```diff
@@ -0,0 +1,187 @@
...
+_two-sided identity element_, that is, an element $e$ such that
+$e \star x = x = x \star e$. For any given $\star$, such an element is exists
+as long as it is unique. This makes unitality a property of magmas rather then
+additional data, leading to the conclusion that the identity element should
+be part of the record `isUnitalMagma` instead of its type signature.
+
+However, since magma homomorphisms do not automatically preserve the
+identity element[^1], it is part of the type signature for
+`isUnitalMagma`{.Agda}, being considered _structure_ that a magma may be
+equipped with.
```
Comment (plt-amy) [inline src/Algebra/UnitalMagma.lagda.md:30]: i'd remove the fake-out and just mention that since magma homomorphisms don't preserve the identity, it is structure, not property

File: src/Algebra/UnitalMagma.lagda.md [hunk 10]
```diff
@@ -0,0 +1,187 @@
...
+
+[^1]: Counterexample: The map $f : (\mathbb{Z}, *) \to (\mathbb{Z}, *)$
+which sends everything to zero is a semigroup homomorphism, but does not
```
Comment (plt-amy) [inline src/Algebra/UnitalMagma.lagda.md:33]: semigroup -> magma

File: src/Algebra/UnitalMagma.lagda.md [hunk 11]
```diff
@@ -0,0 +1,187 @@
...
+  (x .hasIsMagma) (y .hasIsMagma) i
+isProp-isUnitalMagma x y i .isUnitalMagma.idˡ = x .hasIsSet _ _ (x .idˡ) (y .idˡ) i
+isProp-isUnitalMagma x y i .isUnitalMagma.idʳ = x .hasIsSet _ _ (x .idʳ) (y .idʳ) i
+```
+
+We can also show that two units of a magma are necessarily the same, since the
+products of the identities has to be equal to either one:
+
+```agda
+identities-equal : (e e' : A) → {_⋆_ : A → A → A} → isUnitalMagma e _⋆_ →
```
Comment (plt-amy) [inline src/Algebra/UnitalMagma.lagda.md:67]: put the `→` at the start of the line

File: src/Algebra/UnitalMagma.lagda.md [hunk 12]
```diff
@@ -0,0 +1,187 @@
...
+  e ≡⟨ sym (idʳ unital') ⟩
+  e ⋆ e' ≡⟨ idˡ unital ⟩
+  e' ∎
+```
+
+We also show that the type of two-sided identities of a magma,
+meaning the type of elements combined with a proof that they make a given magma unital,
+is a proposition. This is because `left-right-identities-equal`{.Agda} shows the elements are equal,
+and the witnesses are equal because they are propositions, as can be derived from
+`isProp-isUnitalMagma`{.Agda}
```
Comment (plt-amy) [inline src/Algebra/UnitalMagma.lagda.md:79]: wrap all paragraphs at 72ch

File: src/Algebra/UnitalMagma.lagda.md [hunk 13]
```diff
@@ -0,0 +1,187 @@
...
+
+```agda
+isProp-hasIdentity : {⋆ : A → A → A} → isMagma ⋆
+                 → isProp (Σ[ u ∈ A ] (isUnitalMagma u ⋆))
```
Comment (plt-amy) [inline src/Algebra/UnitalMagma.lagda.md:83]: align the `→` and the `:`

File: src/Algebra/UnitalMagma.lagda.md [hunk 14]
```diff
@@ -0,0 +1,187 @@
...
+  r     ∎
+```
+
+This also allows us to show that a magma with both a left as well as a right identity
+has to be unital - the identities are equal, which makes them both be left as well as
+right identities.
+
+```agda
+left-right-identities-unital : {_⋆_ : A → A → A} (l r : A) → isLeftId _⋆_ l → isRightId _⋆_ r →
+  isMagma _⋆_ → isUnitalMagma l _⋆_
```
Comment (plt-amy) [inline src/Algebra/UnitalMagma.lagda.md:180]: probably break up this type signature like:

```
left-right-identities-unital
  : {_⋆_ : A → A → A} (l r : A)
  → isLeftId _⋆_ l → isRightId _⋆_ r
  → isMagma _⋆_ → isUnitalMagma l _⋆_
```

**Review by plt-amy — APPROVED** [review]
Overall the content looks great but I have some nits to pick

**Comment by plt-amy** [comment]
@uniwuni Sorry but could you move `EckmannHilton` to `Algebra.UnitalMagma.EckmannHilton`? And word-wrap the paragraphs there at 72ch too

**Comment by uniwuni** [comment]
> @uniwuni Sorry but could you move `EckmannHilton` to `Algebra.UnitalMagma.EckmannHilton`? And word-wrap the paragraphs there at 72ch too

Does code need to be wrapped too? The text should already be aligned

File: src/Algebra/EckmannHilton.lagda.md [hunk 15]
```diff
@@ -0,0 +1,100 @@
...
+
+module Algebra.EckmannHilton where
+```
+
+
+# The Eckmann-Hilton Argument
+
+The **Eckmann-Hilton argument** shows that two `unital magmas`{.Agda ident=isUnitalMagma} on
+the same carrier type that satisfy a particular interchange law are not only equal to another,
+but are also commutative and associative.
```
Comment (plt-amy) [inline src/Algebra/EckmannHilton.lagda.md:17]: These lines are like 100 characters each

Comment (uniwuni) [reply src/Algebra/EckmannHilton.lagda.md:17]: Oh misunderstood which file you meant sorry

Comment (plt-amy) [reply src/Algebra/EckmannHilton.lagda.md:17]: no worries. thanks for doing this ☺👍

**Comment by plt-amy** [comment]
Just waiting for CI to pass 👍
